US06194406B1
2-Methoxy-5-methylsulfonylbenzoic Acid
Combine methyl 2-methoxy-5-methylsulfonylbenzoate (2.24 g, 9.2 mmol) and a 1 M aqueous potassium hydroxide solution (10 mL, 10 mmol). Heat to reflux. After 2 hours, filter while still hot, cool in an ice bath, and acidify by dropwise addition of a 1 M aqueous hydrochloric acid solution (11 mL) to give a solid. Collect the solid by filtration, rinse with water, and dry to give the title compound: mp; 189-191° C. Elemental Analysis Calculated for C9H10SO5: C, 46.95; H, 4.38. Found: C, 46.76; H, 4.40.

reactant | methyl 2-methoxy-5-methylsulfonylbenzoate | 9.2 mmol, 2.24 g | COC1=C(C(=O)OC)C=C(C=C1)S(=O)(=O)C | C10H12O5S
reactant | potassium hydroxide | 10 mmol, 1 M, 10 mL | [OH-].[K+]
product | 2-Methoxy-5-methylsulfonylbenzoic Acid | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C9H10O5S
